US04213984
11-[(4-Cinnamyl-1-piperazinyl)acetyl]-5,11-dihydro-6H-pyrido-[2,3-b][1,4]benzodiazepin-6-one
5.05 gm of 5,11-dihydro-11-[(1-piperazinyl)acetyl]-6H-pyrido-[2,3-b][1,4]benzodiazepin-6-one, 1.6 gm of sodium carbonate and 3.7 gm of cinnamyl bromide were refluxed in 80 ml of n-propanol for 3.5 hours. After evaporation, the residue was dissolved in chloroform/water. The organic phase was dried with sodium sulfate, the chloroform was distilled off, and the residue was purified on a silica gel column. After recrystallization from ethyl acetate.

reactant | 5,11-dihydro-11-[(1-piperazinyl)acetyl]-6H-pyrido-[2,3-b][1,4]benzodiazepin-6-one | 5.05 gm | N1(CCNCC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C18H19N5O2
reactant | sodium carbonate | 1.6 gm | C([O-])([O-])=O.[Na+].[Na+]
reactant | cinnamyl bromide | 3.7 gm | C(C=CC1=CC=CC=C1)Br | C9H9Br
solvent | n-propanol | 80 ml | C(CC)O | C3H8O
product | 11-[(4-Cinnamyl-1-piperazinyl)acetyl]-5,11-dihydro-6H-pyrido-[2,3-b][1,4]benzodiazepin-6-one | C(C=CC1=CC=CC=C1)N1CCN(CC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C27H27N5O2
